US07745462B2
2,2′,4-Trimethoxybenzophenone oxime
Hydroxylamine hydrochloride (4.98 g, 71.7 mmol) is added to a solution of 2,2′,4-tri-methoxybenzophenone (J. Org. Chem. 1996, 61, 6326; 6.5 g, 23.9 mmol) in ethanol (50 ml) and pyridine (10 ml). The mixture is heated at reflux for 2 hours and the solvent evaporated. The residue is partitioned between dichloromethane and 2 M aqueous HCl and the organic phase is washed with water, brine, dried (MgSO4) and evaporated to afford the title compound.

reactant | Hydroxylamine hydrochloride | 71.7 mmol, 4.98 g | Cl.NO
reactant | 2,2′,4-tri-methoxybenzophenone | 23.9 mmol, 6.5 g | COC1=C(C(=O)C2=C(C=CC=C2)OC)C=CC(=C1)OC | C16H16O4
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2,2′,4-Trimethoxybenzophenone oxime | COC1=C(C(C2=C(C=CC=C2)OC)=NO)C=CC(=C1)OC | C16H17NO4
